US05530002
4.1. N-(7-Hydroxynaphth-1-yl)acetamide
100 g (0.55 mol) of 8-aminonaphth-2-ol are poured into 125 ml (135.25 g or 1.325 mol) of acetic anhydride cooled in an ice bath, and the mixture is stirred under cold conditions for 1 h. The mixture obtained is poured into 375 ml of ice-water and stirred for several hours. The violet solid is collected by filtration, washed three times with 30 ml of diethyl ether and dried under reduced pressure. 108.8 g of a product melting point: 193°-195° C. are obtained which is used as it is in the following step.

reactant | 8-aminonaphth-2-ol | 0.55 mol, 100 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | acetic anhydride | 1.325 mol, 125 ml, 135.25 g | C(C)(=O)OC(C)=O | C4H6O3
product | N-(7-Hydroxynaphth-1-yl)acetamide | 108.8 g | OC1=CC=C2C=CC=C(C2=C1)NC(C)=O | C12H11NO2
